US06780855B2
b) 11β-Fluoro-7α-(5-pyrrolidin-1-yl-pentyl)-estra-1,3,5(10)-triene-3,17β-diol
324 mg of 11β-fluoro-3-hydroxy-7α-(5-pyrrolidin-1-yl-pentyl)-estra-1,3,5(10)-trien-17-one is dissolved in 10 ml of methanol and mixed with 63 mg of sodium borohydride. After 1.5 hours of stirring at room temperature, the batch is added to semi-saturated common salt solution, extracted 3 times with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a methylene chloride-methanol gradient, 192 mg of 11β-fluoro-7α-(5-pyrrolidin-1-yl)-pentyl)-estra-1,3,5(10)-triene-3,17β-diol with a melting point of 95-118° C. is obtained.

reactant | 11β-fluoro-3-hydroxy-7α-(5-pyrrolidin-1-yl-pentyl)-estra-1,3,5(10)-trien-17-one | 324 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN1CCCC1)O | C27H38FNO2
reactant | sodium borohydride | 63 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 11β-Fluoro-7α-(5-pyrrolidin-1-yl-pentyl)-estra-1,3,5(10)-triene-3,17β-diol | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN1CCCC1)O | C27H40FNO2
